US07262212B2
A mixture of tert-butyl[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]carbamate prepared in Example 493-(150 mg, 0.39 mmol) and trifluoroacetic acid (4 ml) was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in methylene chloride (4 ml) and neutralized with triethylamine (4 ml, 28.7 mmol). Subsequently, to the solution, benzyl chloroformate (100 mg, 0.59 mmol) was added with cooling on ice-bath followed by stirring at room temperature for 2 hours. To the reaction mixture, a saturated sodium hydrogencarbonate solution was added. The mixture was extracted with methylene chloride. The extract was washed with water and a saturated saline solution, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/acetone=1/1) to afford benzyl[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]carbamate (6.5 mg, yield 4%) as a light yellow powder.

reactant | tert-butyl[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]carbamate | C(C)(C)(C)OC(NN1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)=O | C16H26N6O5
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 28.7 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.59 mmol, 100 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | benzyl[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]carbamate | 6.5 mg, yield 4% | C(C1=CC=CC=C1)OC(NN1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)=O | C19H24N6O5
